US07429609B2
N-(2-Chloro-4-methylpyrimidin-5-yl)-acetamide
1.36 g of 2-chloro-4-methylpyrimidin-5-ylamine was dissolved in 20 mL of dichloromethane, and under stirring on ice, 1.53 mL of pyridine, 2.7 mL of acetic anhydride and 1.16 g of 4-dimethylaminopyridine were added. After stirring at room temperature for 1 hour, water was added, extracted with ethyl acetate, and the resultant organic layer was washed with saturated brine and dried over magnesium sulfate. After evaporating the solvent, the residue was purified by silica gel column chromatography (ethyl acetate:hexane=2:1), to afford 178 mg of the title compound as a brown oil.

reactant | 2-chloro-4-methylpyrimidin-5-ylamine | 1.36 g | ClC1=NC=C(C(=N1)C)N | C5H6ClN3
reactant | pyridine | 1.53 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 2.7 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 1.16 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(2-Chloro-4-methylpyrimidin-5-yl)-acetamide | 178 mg | ClC1=NC=C(C(=N1)C)NC(C)=O | C7H8ClN3O
